US06156900
(S)-pipecolic acid (1.0 g, 7.7 mmol) was treated with trimethyl orthoacetate (15 ml, 171 mmol, 22 eq. 15 vol) and methanol (5 ml, 5 vol). The mixture was stirred and heated for 48 h and then concentrated in vacuo. The residue was dissolved in dichloromethane (10 ml) and filtered through a silica gel plug to yield N-acetylpipecolic acid, methyl ester (730 mg, 50%) which was racemic by GC analysis and had a 1H nmr spectrum which compared favourably with authentic material.

reactant | (S)-pipecolic acid | 7.7 mmol, 1.0 g | N1[C@H](C(=O)O)CCCC1 | C6H11NO2
reactant | trimethyl orthoacetate | 171 mmol, 15 ml, 22 eq | C(C)(OC)(OC)OC | C5H12O3
reactant | methanol | 5 ml | CO | CH4O
product | N-acetylpipecolic acid, methyl ester | 730 mg, 50% | C(C)(=O)N1C(C(=O)OC)CCCC1 | C9H15NO3
